US20010027196A1
2-Amino-4-(3-methyl-pyrazol-1-yl)-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-(3-methyl-pyrazol-1-yl)-pyrimidine-5-carbonitrile, 2-mercaptoethylpyridine and DBU in DME. ES-MS m/e (%): 338 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-(3-methyl-pyrazol-1-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=C(C=C1)C | C10H10N6OS
reactant | 2-mercaptoethylpyridine | SCCC1=NC=CC=C1 | C7H9NS
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(3-methyl-pyrazol-1-yl)-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N1N=C(C=C1)C)C#N)SCCC1=NC=CC=C1 | C16H15N7S
